US06964966B2
A mixture of 20% Pd(OH)2 on carbon (0.3 g) and 1-benzyl-3,3,5-trimethyl-4-piperidone (1.5 g, 6.5 mmol) in methanol (20 ml) was stirred in hydrogen atmosphere (1 atm.) at 30° C. for 6 hr. The catalyst was filtered off, washed with methanol and filtrate was concentrated to dryness to afford 3,3,5-trimethyl-4-piperidinone. Yield 0.8 g (88%), C8H15NO, m/z 142 (M+1).

reactant | 1-benzyl-3,3,5-trimethyl-4-piperidone | 6.5 mmol, 1.5 g | C(C1=CC=CC=C1)N1CC(C(C(C1)C)=O)(C)C | C15H21NO
solvent | methanol | 20 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | Pd(OH)2 on carbon | 0.3 g | [OH-].[OH-].[Pd+2]
product | 3,3,5-trimethyl-4-piperidinone | CC1(CNCC(C1=O)C)C | C8H15NO
